US09085555B2
3-Chloro-2-fluoro-5-morpholin-4-ylmethyl-benzylamine
was prepared according to Scheme C2 (step D) from (3-chloro-2-fluoro-5-morpholin-4-ylmethyl-benzyl)-carbamic acid tert-butyl ester (231 mg, 0.64 mmol) and 4N HCl in dioxane. MS (LC-MS): 259.0 [M]+.

reactant | (3-chloro-2-fluoro-5-morpholin-4-ylmethyl-benzyl)-carbamic acid tert-butyl ester | 0.64 mmol, 231 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)CN1CCOCC1)Cl)F)=O | C17H24ClFN2O3
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Chloro-2-fluoro-5-morpholin-4-ylmethyl-benzylamine | ClC=1C(=C(CN)C=C(C1)CN1CCOCC1)F | C12H16ClFN2O
